US04575507
C. Spiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione
To a refluxing solution of 100 ml. of toluene containing 4.5 g. (0.019 mole) of 3',4'-dihydro-4'-hydroxyspiro [imidazolidine-4,1'(2'H)-naphthalene]2,-5-dione was added a trace of -toluenesulfonic acid and the refluxing continued for 2 hours. The reaction was cooled, stripped to dryness and the residue dissolved in 100 ml. of ethyl acetate. The organic phase was washed with a saturated sodium bicarbonate solution, dried over sodium sulfate and concentrated to dryness. The residue was triturated with diethyl ether, 2.7 g. (65% yield).

reactant | toluene | 4.5 g | C1(=CC=CC=C1)C | C7H8
reactant | 3',4'-dihydro-4'-hydroxyspiro [imidazolidine-4,1'(2'H)-naphthalene]2,-5-dione | 0.019 mole | OC1CCC2(C3=CC=CC=C13)NC(NC2=O)=O | C12H12N2O3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Spiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione | 65% yield | C12(CC=CC3=CC=CC=C13)NC(NC2=O)=O | C12H10N2O2
